US08034812B2
Production of N-(6-{3-[(3-phenylprop-2-ynoyl)amino]phenoxy}imidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide
To a solution of 3-phenylprop-2-ynoic acid (85 mg, 0.581 mmol) in tetrahydrofuran (3 mL) were added isobutyl chlorocarbonate (76 μL, 0.581 mmol) and 4-methylmorpholine (80 μL, 0.727 mmol) under ice-cooling, a solution of N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (150 mg, 0.484 mmol) in N,N-dimethylformamide (3 mL) was further added thereto, and the mixture was stirred at room temperature for 16 hr. Water was added to the reaction mixture, and the precipitated solid was filtrated and washed with water to give the title compound (188 mg, 89%) as a white powder.

reactant | 3-phenylprop-2-ynoic acid | 0.581 mmol, 85 mg | C1(=CC=CC=C1)C#CC(=O)O | C9H6O2
reactant | isobutyl chlorocarbonate | 0.581 mmol, 76 μL | C(OCC(C)C)(=O)Cl | C5H9ClO2
reactant | 4-methylmorpholine | 0.727 mmol, 80 μL | CN1CCOCC1 | C5H11NO
reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.484 mmol, 150 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | N-(6-{3-[(3-phenylprop-2-ynoyl)amino]phenoxy}imidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide | 188 mg, 89% | C1(=CC=CC=C1)C#CC(=O)NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C25H19N5O3
